US04469699
C-3. 1,2-Dihydro-6-methyl-5-(2-methyl-4-thiazolyl)-2-oxo-3-pyridinecarboxamide--To an ice cold stirred 150 ml portion of concentrated sulfuric acid was added over a 5 minute period 64.2 g of finely powdered 1,2-dihydro-6-methyl-5-(2-methyl-4-thiazolyl)-2-oxo-3-pyridinecarbonitrile and the resulting mixture was stirred in an ice bath for 30 minutes and then allowed to stand at room temperature overnight. The reaction mixture was poured onto ice (800 ml beaker half filled) and then neutralized by adding aqueous ammonium hydroxide solution. The tan solid that separated was collected, washed with water, recrystallized from dimethylformamide and dried in an oven at 90° C. for 2 days to produce 59.2 g of 1,2-dihydro-6-methyl-5-(2-methyl-4-thiazolyl)-2-oxo-3-pyridinecarboxamide, m.p. >300° C. with decomposition.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 1,2-dihydro-6-methyl-5-(2-methyl-4-thiazolyl)-2-oxo-3-pyridinecarbonitrile | CC1=C(C=C(C(N1)=O)C#N)C=1N=C(SC1)C | C11H9N3OS
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 1,2-dihydro-6-methyl-5-(2-methyl-4-thiazolyl)-2-oxo-3-pyridinecarboxamide | 59.2 g | CC1=C(C=C(C(N1)=O)C(=O)N)C=1N=C(SC1)C | C11H11N3O2S
